US07968587B2
(±)-2-(1,3-Dioxo-1,3-dihydro-isoindol-2-yl)-4-pyridin-2-ylmethyl-1,2,3,4-tetrahydro-cyclopenta[b]indole-7-carbonitrile
Heat a mixture of 2-(1,3-dioxo-1,3-dihydro-isoindol-2-yl)-1,2,3,4-tetrahydro-cyclopenta[b]indole-7-carbonitrile (5 g, 15.3 mmol) in DMF (25 ml) to 40° C. Add cesium carbonate (10.4 g, 32.4 mmol) and 2-bromomethylpyridine hydrobromide (4.05 g, 16 mmol). Stir the mixture at 40° C. for 24 h. Add the mixture to water (250 mL) and stir for 1 h. Filter the solids and dry the collected material under vacuum. Add the solid to ethanol (25 mL) and reflux for 30 min. Cool the mixture to 22° C. and filter. Dry the solid under vacuum to constant weight to provide 4.8 g (75%) of the title compound. MS (m/z): 419 (M+1).

reactant | 2-(1,3-dioxo-1,3-dihydro-isoindol-2-yl)-1,2,3,4-tetrahydro-cyclopenta[b]indole-7-carbonitrile | 15.3 mmol, 5 g | O=C1N(C(C2=CC=CC=C12)=O)C1CC2=C(NC=3C=CC(=CC23)C#N)C1 | C20H13N3O2
reactant | cesium carbonate | 32.4 mmol, 10.4 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 2-bromomethylpyridine hydrobromide | 16 mmol, 4.05 g | Br.BrCC1=NC=CC=C1
reactant | water | 250 mL | O | H2O
solvent | DMF | 25 ml | CN(C)C=O | C3H7NO
product | (±)-2-(1,3-Dioxo-1,3-dihydro-isoindol-2-yl)-4-pyridin-2-ylmethyl-1,2,3,4-tetrahydro-cyclopenta[b]indole-7-carbonitrile | 4.8 g, 75% | O=C1N(C(C2=CC=CC=C12)=O)C1CC2=C(N(C=3C=CC(=CC23)C#N)CC2=NC=CC=C2)C1 | C26H18N4O2
